US07262201B1
3-Phenyl-4,5-dihydro-1H-pyrazol-5-one (160 mg, 1 mmol), (J. Org. Chem., 1967, 32, 3321-3324), was added in portions over 10 minutes to a suspension of sodium hydride (40 mg, 1 mmol, prewashed with THF) in DMF (3 ml) under nitrogen. After stirring for 20 minutes at ambient temperature 4-chloro-6,7-dimethoxyquinazoline (112 mg, 0.5 mmol) was added and the mixture was heated for 20 minutes at 60° C. After cooling, the mixture was diluted with saturated aqueous ammonium chloride solution and partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried (MgSO4) and the volatiles removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5 followed by 90/10). The volatiles were removed by evaporation, the residual solid was dissolved in methylene chloride and 3M ethereal hydrogen chloride (1 ml) was added. After removal of the solvent by evaporation, the residue was triturated with ether, collected by filtration and dried under vacuum to give 6,7-dimethoxy-4-(5-phenylpyrazol-3-yloxy)quinazoline (145 mg, 75%).

reactant | 3-Phenyl-4,5-dihydro-1H-pyrazol-5-one | 1 mmol, 160 mg | C1(=CC=CC=C1)C1=NNC(C1)=O | C9H8N2O
reactant | sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | 4-chloro-6,7-dimethoxyquinazoline | 0.5 mmol, 112 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 6,7-dimethoxy-4-(5-phenylpyrazol-3-yloxy)quinazoline | 145 mg, 75% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=NNC(=C1)C1=CC=CC=C1 | C19H16N4O3
